US08008303B2
2′-Chloro-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid ethyl ester
A mixture of 6-chloro-biphenyl-3,4′-dicarboxylic acid 4′-ethyl ester (800 mg), N-(4-aminophenyl)morpholine (469 mg), EDAC (504 mg), HOBT (355 mg) and N-methylmorpholine (578 μl) in DMF (10 ml) was stirred at room temperature. After 1 h, water (80 ml) was added and the resulting suspension filtered. The residue was then purified by chromatography. Elution with 1:1 ethyl acetate:petrol gave a yellow crystalline solid (437 mg).

reactant | 6-chloro-biphenyl-3,4′-dicarboxylic acid 4′-ethyl ester | 800 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1Cl)C(=O)O | C16H13ClO4
reactant | N-(4-aminophenyl)morpholine | 469 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
reactant | EDAC | 504 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 355 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 578 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | 2′-Chloro-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid ethyl ester | 437 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O)Cl | C26H25ClN2O4
